US06884821B1
Using 4-isopropylbenzyl alcohol and 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 2-isopropoxy-3-(3-[(4-isopropoxybenzyl)oxy]methyl-4-methoxyphenyl)propanoic acid was obtained in the same method as in Example 247).

reactant | 4-isopropylbenzyl alcohol | C(C)(C)C1=CC=C(CO)C=C1 | C10H14O
reactant | 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | BrCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 2-isopropoxy-3-(3-[(4-isopropoxybenzyl)oxy]methyl-4-methoxyphenyl)propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)COCC1=CC=C(C=C1)OC(C)C | C24H32O6
